US05326766
8-Fluoro-4-(2-(4-(5-(trifluoromethyl)-2-pyridinyloxy)phenyl)ethoxy)quinazoline (Compound 27)
A mixture of 4-chloro-8-fluoroquinazoline (2.12 g, 12 mmol) and 2-(4-(5-(trifluoromethyl)-2-pyridinyloxy)phenyl)ethanol (2.83 g, 10 mmol) in 50 mL of toluene containing a catalytic amount of hydrogen chloride was stirred for several days. The title product was isolated by column chromatography. Yield 1.6 g. MP 116°-118° C.

reactant | 4-chloro-8-fluoroquinazoline | 12 mmol, 2.12 g | ClC1=NC=NC2=C(C=CC=C12)F | C8H4ClFN2
reactant | 2-(4-(5-(trifluoromethyl)-2-pyridinyloxy)phenyl)ethanol | 10 mmol, 2.83 g | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)CCO)(F)F | C14H12F3NO2
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 8-Fluoro-4-(2-(4-(5-(trifluoromethyl)-2-pyridinyloxy)phenyl)ethoxy)quinazoline | FC=1C=CC=C2C(=NC=NC12)OCCC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C22H15F4N3O2
